US08304419B2
To a solution of 6-chloro-2-fluoro-3-methylphenol (12.8 g, 80 mmol) and 18-crown-6 (4.21 g, 15.94 mmol) in DMSO (100 ml) at 0° C. was added potassium tert-butoxide (1.0 M solution in THF) (80 ml, 80 mmol) and the reaction mixture was stirred at RT for 30 minutes. Next, 1-bromo-2,5-difluoro-4-nitrobenzene (19.4 g, 80 mmol) was added dropwise (in solution of 60 mL DMSO) and the reaction mixture was stirred overnight at RT. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was triturated with methanol to give 2-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene (21.3 g, 56.3 mmol, 71% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.26 (d, 1H), 7.34-7.40 (m, 1H), 7.21-7.34 (m, 2H), 2.23 (d, 3H).

reactant | 6-chloro-2-fluoro-3-methylphenol | 80 mmol, 12.8 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 18-crown-6 | 15.94 mmol, 4.21 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium tert-butoxide | 80 mmol, 1.0 M, 80 ml | CC(C)([O-])C.[K+]
reactant | 1-bromo-2,5-difluoro-4-nitrobenzene | 80 mmol, 19.4 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C6H2BrF2NO2
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 2-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene | 56.3 mmol, 21.3 g, 71% yield | BrC=1C(=CC(=C(C1)OC1=C(C=CC(=C1F)C)Cl)[N+](=O)[O-])F | C13H7BrClF2NO3
